US04031071
d. Nα-Benzyloxycarbonyl-D-alanine
D-alanine is reacted (12.5 g., 0.14 mol) with 26 g., 0.14 mol + 2 g. excess. of benzyloxycarbonyl chloride and 0.28 mol of sodium hydroxide. The D-alanine is dissolved in one equivalent of sodium hydroxide solution, cooled in ice, and treated slowly with the acid chloride and the second equivalent of sodium hydroxide while maintaining pH 10-12. The reaction is stirred for an additional hour with cooling and is worked up by extraction with ether and acidification of the aqueous solution. A precipitate soon solidifies and is collected and dried; 23.5 g.; m.p. 82°-85° C.

reactant | D-alanine | N[C@H](C)C(=O)O | C3H7NO2
reactant | benzyloxycarbonyl chloride | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | sodium hydroxide | 0.28 mol | [OH-].[Na+]
reactant | sodium hydroxide | one equivalent | [OH-].[Na+]
product | Nα-Benzyloxycarbonyl-D-alanine | C(C1=CC=CC=C1)OC(=O)N[C@H](C)C(=O)O | C11H13NO4
